US07790793B2
Preparation of N-cyclohexyl-3,5-bis-(cyclohexanecarbonylamino)-benzamide
from 0.50 g (2.14 mmol) of 3,5-diamino-N-cyclohexyl-benzamide, 0.73 g (4.98 mmol) of cyclohexanecarbonylchloride, 30 ml of NMP, 5 ml of pyridine and 0.05 g of LiCl according to Method A.

reactant | 3,5-diamino-N-cyclohexyl-benzamide | 2.14 mmol, 0.50 g | NC=1C=C(C(=O)NC2CCCCC2)C=C(C1)N | C13H19N3O
reactant | cyclohexanecarbonylchloride | 4.98 mmol, 0.73 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | NMP | 30 ml | CN1CCCC1=O | C5H9NO
reactant | LiCl | 0.05 g | [Li+].[Cl-]
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-cyclohexyl-3,5-bis-(cyclohexanecarbonylamino)-benzamide | C1(CCCCC1)NC(C1=CC(=CC(=C1)NC(=O)C1CCCCC1)NC(=O)C1CCCCC1)=O | C27H39N3O3
